US04032525
26.4 G. of 2-amino-10,11-dihydro-dibenz[b,f]oxepin-10-one are dissolved in 230 ml. of 2-N aqueous methanesulfonic acid. The mixture is cooled to 0° C. There is added dropwise thereto over a period of 7 minutes a solution of 10.7 g. of sodium nitrite in 37.5 ml. of water in such a manner that the temperature does not exceed 5° C. The mixture is stirred for an additional 5 minutes at 5° C. Then, this solution of the diazonium methanesulfonate is poured into a mixture of 500 ml. of ethyl acetate and a solution of 37.5 g. of copper (I) chloride in 450 ml. of concentrated hydrochloric acid. The resulting mixture is stirred for an additional 10 minutes at room temperature and the phases are then separated. The ethyl acetate solution is washed several times with saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated in vacuo. The residue is dissolved in benzene and chromatographed over 400 g. of silica gel. Upon elution with benzene, there is obtained a substance which is crystallized from a small amount of isopropanol and there is obtained 2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-one having a melting point of 60°-61° C.

reactant | 2-amino-10,11-dihydro-dibenz[b,f]oxepin-10-one | NC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H11NO2
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | copper (I) chloride | [Cu]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-one | ClC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9ClO2
